US06849622B2
0.84 ml of triethylamine and 0.37 ml of methanesulfonyl chloride were added to 10 ml of a tetrahydrofuran solution containing 0.99 g of 2-tert-butoxycarbonyl-5-(hydroxylmethyl)isoindoline under ice-cooling, and the mixture was stirred under ice-cooling for 1 hour. Water was added to the reaction mixture and the mixture was extracted with ethyl acetate. After the extract was dried over sodium sulfate, the solvent was removed under reduced pressure. To the residue were added 20 ml of ethanol and 1.02 ml of diisopropylethylamine, and the mixture was refluxed for 30 minutes. The reaction mixture was concentrated under reduced pressure, and ethyl acetate and an aqueous 5% hydrochloric acid solution were added to the residue, followed by the extraction. After the extract was dried over sodium sulfate, the solvent was removed under reduced pressure. The residue was purified by silica gel chromatography (solvent: hexane-ethyl acetate=4:1) to obtain an oily product. This oily product was dissolved in 5 ml of dioxane, then, 8 ml of 4N hydrochloric acid-dioxane was added thereto, and the mixture was stirred at room temperature. The precipitates precipitated by addition of 20 ml of ether were collected by filtration and washed with ether to obtain 5-(ethoxymethyl)isoindoline.hydrochloride.

reactant | triethylamine | 0.84 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 0.37 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | 2-tert-butoxycarbonyl-5-(hydroxylmethyl)isoindoline | 0.99 g | C(C)(C)(C)OC(=O)N1CC2=CC=C(C=C2C1)CO | C14H19NO3
reactant | hydrochloric acid dioxane | 4N, 8 ml | Cl.O1CCOCC1
solvent | dioxane | 5 ml | O1CCOCC1 | C4H8O2
solvent | Water | O | H2O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 5-(ethoxymethyl)isoindoline.hydrochloride | Cl.C(C)OCC=1C=C2CNCC2=CC1 | InChI=1S/C11H15NO.ClH/c1-2-13-8-9-3-4-10-6-12-7-11(10)5-9;/h3-5,12H,2,6-8H2,1H3;1H
